US06864396B2
A mixture containing 20.0 grams of 2,5-bis[4-(3,5,5-trimethylhexyl)benzoyl]terephthalic acid in 1500 mL of tetrahydrofuran (THF) and 1.4 grams of 10% palladium on carbon (as a catalyst) was heated to 90° C. in an atmosphere of hydrogen at 620 kPa and 90° C. for 17 hours. The mixture was filtered through Celite™ diatomaceous earth filter agent to remove the catalyst. The filtrate was concentrated in vacuo to give 2,5-bis[4-(3,5,5-trimethylhexyl)benzyl]terephthalic acid.

reactant | 2,5-bis[4-(3,5,5-trimethylhexyl)benzoyl]terephthalic acid | 20.0 grams | CC(CCC1=CC=C(C(=O)C2=C(C(=O)O)C=C(C(=C2)C(=O)O)C(C2=CC=C(C=C2)CCC(CC(C)(C)C)C)=O)C=C1)CC(C)(C)C | C40H50O6
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 1500 mL | O1CCCC1 | C4H8O
catalyst | palladium on carbon | 1.4 grams | [Pd] | Pd
product | 2,5-bis[4-(3,5,5-trimethylhexyl)benzyl]terephthalic acid | CC(CCC1=CC=C(CC2=C(C(=O)O)C=C(C(=C2)C(=O)O)CC2=CC=C(C=C2)CCC(CC(C)(C)C)C)C=C1)CC(C)(C)C | C40H54O4
